US03953398
Ethyl 3,5-di tert.butyl-4-hydroxycinnamate was prepared by heating a mixture of 33.0 grams of 3,5-di tert.butyl-4-hydroxybenzaldehyde, 55.0 grams of ethyl hydrogen malonate, 50 milliliters of pyridine, and 3 milliliters of piperidine at 90° to 95° C. for 7 hours. The reaction mixture was cooled to room temperature and the solid which precipitated was filtered off, washed with 5 percent hydrochloric acid, and dried. Thirty grams of product was obtained which melted at 149° to 152° C. Working up the filtrate yielded an additional 5.5 grams of product.

reactant | 3,5-di tert.butyl-4-hydroxybenzaldehyde | 33.0 grams | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | ethyl hydrogen malonate | 55.0 grams | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | piperidine | 3 milliliters | N1CCCCC1 | C5H11N
solvent | pyridine | 50 milliliters | N1=CC=CC=C1 | C5H5N
product | Ethyl 3,5-di tert.butyl-4-hydroxycinnamate | C(C)(C)(C)C=1C=C(C=CC(=O)OCC)C=C(C1O)C(C)(C)C | C19H28O3
